US06878714B2
To a slurry of 60% NaH suspension in DMF (30 mL) at RT added a solution of 5-nitro-2-pentafluoroethyl-phenol (3.6 g) in 5 mL DMF. The dark red mixture was stirred at RT for 10 min then added a solution of 1-Boc-4-methylsulfonyloxymethyl-piperidine (3.1 g) in 5 mL DMF. The reaction was stirred at 60° C. and 95° C. After 1 h, added 2.94 g K2CO3 and stirred overnight at 105° C. After cooling to RT, the reaction was diluted with hexanes and 1N NaOH. Separated layers, and washed organic layer with 1N NaOH and with brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification with silica gel column chromatography with 8% EtOAc/Hexanes yielded 1-Boc-4-(3-nitro-6-pentafluoroethyl-phenoxymethyl)-piperidine as a light yellow thick oil.

reactant | NaH | [H-].[Na+]
reactant | 5-nitro-2-pentafluoroethyl-phenol | 3.6 g | [N+](=O)([O-])C=1C=CC(=C(C1)O)C(C(F)(F)F)(F)F | C8H4F5NO3
reactant | 1-Boc-4-methylsulfonyloxymethyl-piperidine | 3.1 g | C(=O)(OC(C)(C)C)N1CCC(CC1)COS(=O)(=O)C | C12H23NO5S
reactant | K2CO3 | 2.94 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | NaOH | 1N | [OH-].[Na+]
product | 1-Boc-4-(3-nitro-6-pentafluoroethyl-phenoxymethyl)-piperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)COC1=CC(=CC=C1C(C(F)(F)F)(F)F)[N+](=O)[O-] | C19H23F5N2O5
